US05075435
A solution of (3S,4S)-4-(1-hydroxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (106 mg) and dihydropyran (25 mg) in dry dichloromethane (1 mg) was treated with p-toluenesulfonic acid (1 mg) at room temperature for 50 minutes. The reaction mixture was diluted with ethyl acetate, washed with brine and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave an oily residue, which was purified by thin-layer chromatography (SiO2) to yield (3S,4S)-4-(1-tetrahydropyranyloxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone.

reactant | (3S,4S)-4-(1-hydroxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 106 mg | OCC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H37NO7
reactant | dihydropyran | 25 mg | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 1 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 1 mg | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S,4S)-4-(1-tetrahydropyranyloxymethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | O1C(CCCC1)OCC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C38H45NO8
